US04277553
Synthesis of 2-n-octadecyl-4-propionyloxyphenol
To 5.2 g of n-octadecanoylhydroquinone and 6.0 g of anhydrous propionic acid were added 1.5 ml of concentrated sulfuric acid and thereafter the mixture was heated on an oil bath at 140° C. for 15 minutes. After being allowed to be cooled, the mixture was added to ice and extracted with ethyl acetate. The extract was washed with water and dried. Purification through silica gel column chromatography [developing solvent: benzene/acetone (9:1)] gave 2.3 g of the end product having m.p. 75°-78° C. Elemental analysis:

reactant | n-octadecanoylhydroquinone | 5.2 g | C(CCCCCCCCCCCCCCCCC)(=O)C1=C(O)C=CC(=C1)O | C24H40O3
reactant | propionic acid | 6.0 g | C(CC)(=O)O | C3H6O2
reactant | sulfuric acid | 1.5 ml | S(O)(O)(=O)=O | H2O4S
product | 2-n-octadecyl-4-propionyloxyphenol | 2.3 g | C(CCCCCCCCCCCCCCCCC)C1=C(C=CC(=C1)OC(CC)=O)O | C27H46O3
